US08026257B2
tert-Butyl 4-(((5-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
A microwave tube was charged with tert-butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (200 mg, 0.3 17 mmol), trimethylboroxine (0.089 mL, 0.634 mmol), tetrahydrofuran (1.5 mL), sodium carbonate (4 M in water, 0.24 mL, 0.95 mmol), and tetrakis(triphenylphosphine)-palladium(0) (18.3 mg, 0.016 mmol). The tube was flushed with nitrogen, sealed, and heated at 110° C. for 2 h via microwave. The reaction was cooled, poured into diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25% EtOAc/Hex) gave 86 mg (50%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.94 (s, 1H), 7.20-7.45 (m, 6H), 6.86 (s, 1H), 5.65 (s, 2H), 4.84 (s, 2H), 3.74 (bs, 2H), 3.58 (t, J=7.9 Hz, 2H), 3.54 (s, 2H), 3.07 (m, 2H), 2.33 (s, 3H), 2.20 (m, 2H), 1.97 (m, 2H), 1.44 (s, 9H), 0.91 (t, J=7.6 Hz, 2H), −0.04 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.1, 146.1, 143.2, 131.6, 128.5, 127.9, 127.4, 126.4, 126.0, 122.6, 121.9, 117.3, 81.7, 79.6, 79.3, 69.0, 67.3, 41.9, 40.3 (br), 32.0, 28.6, 22.0, 17.9, −1.3. Mass spec.: 566.35 (MH)+.

reactant | tert-butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 17 mmol, 200 mg | BrC1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
reactant | trimethylboroxine | 0.634 mmol, 0.089 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | sodium carbonate | 0.95 mmol, 4 M, 0.24 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.016 mmol, 18.3 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(((5-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CC1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C32H47N3O4Si
